data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3308,3747,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH:8]=[N+:9]([CH3:10])[C-:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:8]([CH3:7])[N:9]([CH3:10])[C:11]1([CH3:12])[C:13](=[O:14])[O:15][CH3:16],water,298.15,13.466746125848632,-20.577768110163905
1989,2210,[CH3:12][O:13][C:14](=[O:15])[C:16](=[NH+:17][C-:18]([C:19](=[O:20])[O:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26])[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2](=[O:3])[C:4]#[C:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:18]([C:19](=[O:20])[O:21][CH3:22])([C:23](=[O:24])[O:25][CH3:26])[NH:17][C:16]1([C:14]([O:13][CH3:12])=[O:15])[C:27](=[O:28])[O:29][CH3:30],water,298.15,20.368864481254622,-32.42861260500603
2946,3287,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8]([C:9]#[N:10])=[O+:11][O-:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[O:12][O:11][C:8]1([C:6]([CH3:5])=[O:7])[C:9]#[N:10],water,298.15,6.00620386374569,-44.6306443390674
1077,1174,[CH3:13][N-:14][NH+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]([C:17](=[O:18])[O:19][CH3:20])([C:21](=[O:22])[O:23][CH3:24])[NH:15][N:14]3[CH3:13],water,298.15,25.80905851297885,-24.05954685073768
4031,4616,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH-:9][N+:10]([CH3:11])=[C:12]([C:13]([CH3:14])=[O:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]([CH3:11])[C:12]1([C:13]([CH3:14])=[O:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,33.86303228158268,-21.512917297805576
3503,3995,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C-:6]([C:7]#[N:8])[N+:9]([CH3:10])=[C:11]([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:6]([CH3:5])([C:7]#[N:8])[N:9]([CH3:10])[C:11]1([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,24.504669100989965,-25.33541439956357
2521,2800,[CH3:19][O:20][C:21](=[O:22])[CH-:23][O+:24]=[C:25]([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])/[C:5](=[C:6](\[C:7](=[O:8])[O:9][CH3:10])[C:11]([F:12])([F:13])[F:14])[C:15]([F:16])([F:17])[F:18]>>[CH3:1][O:2][C:3](=[O:4])[C@@:5]1([C:15]([F:16])([F:17])[F:18])[C@:6]([C:7](=[O:8])[O:9][CH3:10])([C:11]([F:12])([F:13])[F:14])[CH:23]([C:21]([O:20][CH3:19])=[O:22])[O:24][C:25]1([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,12.615636248748029,-35.66380662954008
3983,4558,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:19]([CH3:20])=[O:21])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,13.268203059894654,-42.015192907946656
4788,5466,[CH3:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N+:18]([CH3:19])=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:18]([CH3:19])[C:11]1([CH3:10])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,23.11170388785637,-24.76268765210698
4323,4944,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[NH+:10][C-:11]([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:11]([C:12]#[N:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[NH:10][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:20](=[O:21])[O:22][CH3:23],water,298.15,22.89371143043953,-17.097934059525898
2856,3174,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C-:25]([C:26]([CH3:27])=[O:28])[N+:29]([CH3:30])=[C:31]([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:31]([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)([c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1)[N:29]([CH3:30])[C:25]2([C:23]([O:22][CH3:21])=[O:24])[C:26]([CH3:27])=[O:28],water,298.15,45.6656236604509,-14.519080171015233
